US06090836
1. 3-(2,2-dimethylpropyl)-6-(3-bromopropyloxy)-7-propylbenz[4,5]isoxazole
A solution of 3-(2,2-dimethylpropyl)-6-hydroxy-7-propylbenz[4,5]isoxazole (2.000 grams; 8.090 mmol) in dry DMF (20 mL) was treated with 1,3-dibromopropane (4.29 mL; 42.263 mmol). Cesium carbonate (2.900 grams; 8.901 mmol) was added and the mixture stirred at 20° for 8 hours. The reaction mixture was partitioned between isopropyl acetate and pH 4 buffer. The organic was washed with water, then dried over magnesium sulfate. Filtration and evaporation afforded an oil which was chromatographed over silica gel, giving the title compound.

reactant | 3-(2,2-dimethylpropyl)-6-hydroxy-7-propylbenz[4,5]isoxazole | 8.090 mmol, 2.000 grams | CC(CC1=NOC2=C1C=CC(=C2CCC)O)(C)C | C15H21NO2
reactant | 1,3-dibromopropane | 42.263 mmol, 4.29 mL | BrCCCBr | C3H6Br2
reactant | Cesium carbonate | 8.901 mmol, 2.900 grams | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 3-(2,2-dimethylpropyl)-6-(3-bromopropyloxy)-7-propylbenz[4,5]isoxazole | CC(CC1=NOC2=C1C=CC(=C2CCC)OCCCBr)(C)C | C18H26BrNO2
